US08431607B2
A solution of N-(2-(4-(4-chlorophenoxy)phenylamino)-2-(3-(trifluoromethyl)phenyl)ethyl)-4-methylbenzenesulfonamide (358 mg, 0.638 mmol) and phenol (180 mg, 1.92 mmol) in 30 wt % HBr in acetic acid (3.5 mL) is heated at 80° C. for 2 h. After cooling down to room temperature, most of the solvent is removed under vacuo. The residue is then quenched with cold saturated NaHCO3 aqueous solution (40 mL) and extracted with EtOAc (3×20 mL). The combined organic layer is concentrated and purified by reverse phase HPLC to provide N1-(4-(4-chlorophenoxy)phenyl)-1-(3-(trifluoromethyl)phenyl)ethane-1,2-diamine (128 mg, 49% yield) as a light yellow oil-like product.

reactant | N-(2-(4-(4-chlorophenoxy)phenylamino)-2-(3-(trifluoromethyl)phenyl)ethyl)-4-methylbenzenesulfonamide | 0.638 mmol, 358 mg | ClC1=CC=C(OC2=CC=C(C=C2)NC(CNS(=O)(=O)C2=CC=C(C=C2)C)C2=CC(=CC=C2)C(F)(F)F)C=C1 | C28H24ClF3N2O3S
reactant | phenol | 1.92 mmol, 180 mg | C1(=CC=CC=C1)O | C6H6O
reactant | HBr | Br | BrH
solvent | acetic acid | 3.5 mL | C(C)(=O)O | C2H4O2
product | N1-(4-(4-chlorophenoxy)phenyl)-1-(3-(trifluoromethyl)phenyl)ethane-1,2-diamine | 128 mg, 49% yield | ClC1=CC=C(OC2=CC=C(C=C2)NC(CN)C2=CC(=CC=C2)C(F)(F)F)C=C1 | C21H18ClF3N2O
